US07842685B2
A mixture of 2,6-dimethyl-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)benzaldehyde (22.4 mg, 58.3 μmol), azetidine-3-carboxylic acid (29.5 mg, 291 μmol), and acetic acid (26.9 μl, 466 μmol) in 1:1 CH2Cl2/MeOH (2.0 mL) was stirred at 25° C. for 1 h. Sodium cyanoborohydride (6.59 mg, 105 μmol) was then added, and the resulting mixture was stirred at 25° C. for 15 h. The reaction mixture was then concentrated in vacuo, dissolved in 2 mL DMSO+20 μL trifluoroacetic acid, filtered, and purified by rpHPLC (10-100% acetonitrile/water+0.1% TFA) to provide 1-((2,6-dimethyl-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)methyl)-azetidine-3-carboxylic acid as a light yellow solid. MS (ESI) m/z: Calculated: 469.2; Observed: 470.1 (M++1).

reactant | 2,6-dimethyl-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)benzaldehyde | 58.3 μmol, 22.4 mg | CC1=C(C=O)C(=CC(=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)C | C24H20N2OS
reactant | azetidine-3-carboxylic acid | 291 μmol, 29.5 mg | N1CC(C1)C(=O)O | C4H7NO2
reactant | acetic acid | 466 μmol, 26.9 μl | C(C)(=O)O | C2H4O2
reactant | Sodium cyanoborohydride | 105 μmol, 6.59 mg | C(#N)[BH3-].[Na+]
solvent | CH2Cl2 MeOH | 2.0 mL | C(Cl)Cl.CO
product | 1-((2,6-dimethyl-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)methyl)-azetidine-3-carboxylic acid | CC1=C(C(=CC(=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)C)CN1CC(C1)C(=O)O | C28H27N3O2S
